US07186729B2
Step 2: 4-(4-Chloro-phenyl)-4-hydroxy 3-propionylamino-piperidine-1-carboxylic acid tert-butyl ester
3-Amino-4-(4-chloro-phenyl)-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (0.116 g, 0.35 mmol) was dissolved in CH2Cl2. Propionyl chloride (0.034 mL, 0.39 mmol) and triethylamine (0.109 mL, 0.78 mmol) were added and the solution was stirred for 24 h at room temperature. The reaction was concentrated in vacuo, then purified by Biotage flash chromatography (30% ethyl acetate/70% hexane to 50% ethyl acetate/50% hexane) to yield the title compound (0.133 g, 97%). 1H-NMR (CDCl3): δ 0.87 (t, 3H), 1.44 (s, 9H), 1.78–1.95 (m, 3H), 2.20 (dt, 1H), 3.24 (t, 1H), 3.50 (d, 1H), 3.90 (t, 1H), 4.08 (q, 2H), 4.28 (d, 1H), 5.48 (bd, 1H), 7.26 (d, 2H), 7.37 (d, 2H). ESI-MS m/z: 383 (M+1), retention time 2.21.

reactant | 3-Amino-4-(4-chloro-phenyl)-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 0.35 mmol, 0.116 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)(O)C1=CC=C(C=C1)Cl)N | C16H23ClN2O3
reactant | Propionyl chloride | 0.39 mmol, 0.034 mL | C(CC)(=O)Cl | C3H5ClO
reactant | triethylamine | 0.78 mmol, 0.109 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(4-Chloro-phenyl)-4-hydroxy 3-propionylamino-piperidine-1-carboxylic acid tert-butyl ester | 0.133 g, 97% | C(C)(C)(C)OC(=O)N1CC(C(CC1)(O)C1=CC=C(C=C1)Cl)NC(CC)=O | C19H27ClN2O4
